2116-06-24 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events since admission, continued IVF hydration.
   ERCP pending INR return (goal <1.5)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-24**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 101 (101 - 110) bpm
   BP: 100/74(80) {97/52(59) - 142/127(131)} mmHg
   RR: 28 (22 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             6,371 mL
   PO:
             TF:
   IVF:
   2,371 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    245 mL
   Urine:
   120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   GENERAL - uncomfortable appearing lady in NAD
   HEENT - NC/AT, Limited cooperation with CN exam.  Mucous membranes
   profoundly dry. OP with the appearance of dried blood
   NECK - supple, no thyromegaly, no JVD, no carotid bruits
   LUNGS - Bibasilar crackles/bowel sounds, no r/rh/wh, good air movement,
   resp unlabored but rapid
   HEART - PMI non-displaced, S1 & S2 regular with occasional irregularity
   and II/VI HSM heard best in LLSB
   ABDOMEN - Bowel sounds present, Diffusely tender but soft and
   non-distended, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no edema, 1+ DP pulses
   SKIN - no rashes or lesions
   LYMPH - no cervical, axillary, or inguinal LAD
   NEURO - Awake, Oriented to self. CN exam limited by her cooperation.
   PERRL. Muscle strength 4-/5 throughout, sensation grossly intact
   throughout, gait deferred as patient is wheelchair bound
   Labs / Radiology
   119 K/uL
   11.3 g/dL
   67 mg/dL
   1.9 mg/dL
   18 mEq/L
   3.5 mEq/L
   40 mg/dL
   113 mEq/L
   143 mEq/L
   33.4 %
   12.5 K/uL
        [image002.jpg]
                             [**2116-6-24**]  03:36 AM
   WBC
   12.5
   Hct
   33.4
   Plt
   119
   Cr
   1.9
   Glucose
   67
   Other labs: PT / PTT / INR:17.2/31.2/1.6, ALT / AST:261/198, Alk Phos /
   T Bili:125/2.9, Differential-Neuts:85.0 %, Band:9.0 %, Lymph:1.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:3.0 g/dL,
   LDH:160 IU/L, Ca++:7.1 mg/dL, Mg++:1.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR limited by positioning, bilateral diaphragm unclear
   Microbiology: MRSA Screen Pending
   Blood Cultures
   Assessment and Plan
   An 84 year old lady with dementia presents from [**Location (un) 1075**] [**Hospital1 1657**] Nursing
   home with cholangitis & sepsis.  She is improved this morning after
   aggressive fluid hydration and antibiotics.
   #. Cholangitis + Sepsis: The patient looks improved this morning with
   resolving hypotension and tachycardia, decreased white count and
   increased urine output. Her lactate and Cr are improving, anion gap
   decreasing and her metabolic alkalosis appears to have resolved.  She
   is NPO with INR of 1.5 pending ERCP today.
   - Continue Cipro and Flagyl IV renally dosed
   - NPO with IVF titrated to UOP>= 30mL/hr until signs of fluid overload
   on exam
   - PM Hct & Lytes
   - Symptomatic control with Zofran
   - Trending fever curve, white count
   - Hold home antihypertensives
   #. Oliguric renal failure: UOP improving with fluid administration and
   Cr at 1.9 (baseline still unknown).
   - Treat underlying sepsis as above
   - Aggressive volume hydration to goal UOP >= 30mL/hr
   - Renally dose medications/Avoid nephrotoxins
   #. UGIB/Tear: According to recent lavage the patient is not actively
   bleeding, likely has a small tear from vomiting.  Hematocrit has
   decreased signficantly as expected with aggressive hydration
   - Convert home Omeprazole to Protonix 40mg IV Q12
   - Repeat Hct Q12 while stable, expecting a drop overnight after fluid
   hydration
   - Guaiac stools
   - Active T&Screen
   - Telemetry
   #. Dementia: Patient reportedly at baseline but will confirm with
   family in AM.  Depression component, holding Celexa & Clonazepam while
   NPO.  Delerium seems to have improved.
   #. HTN: Patient currently hypotensive, holding home anti-hypertensives
   (Labetalol, Captopril, Amlodipine)
   #. Gout: Continuing Allopurinol, renally dosed at 100mg PO every other
   day to start [**2116-6-25**]
   #. Spinal Stenosis: Continue Lidoderm patch, hold Vicodin.  Consider
   Morphine IV PRN when hemodynamically stable.
   #. Hyperlipidemia: Holding Statin while NPO
   #. Hypothyroidism: Continue Levoxyl as 50mcg IV daily, will return to
   100mcg PO daily once taking POs
   #. CAD: Holding ASA, Statin
   #. FEN - NPO, Fluids as above, replete lytes
   #. Access - PIV x2
   #. PPx: Pneumoboots (No anticoagulation)
   #. Code - DNR/DNI per signed form
   #. Dispo - Pending above
   Contact: [**Name (NI) 2052**] [**Name (NI) 6322**] (dgt and health care proxy)[**Telephone/Fax (1) 6323**], cell
   [**Telephone/Fax (1) 6324**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-24**] 03:31 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: DNR / DNI
   Disposition: Pending ERCP results
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   84 yo F from NH w/ PMH if vascular dementia, recently treated for
   urosepsis admitted with cholangitis.
   Presented after 2 days n/v/abd pain.
   In ed febrile 102, tachy to 114 and transiently hypotensive to 90's
   systolic with fluid response.  94% on 2 L.  LFTs c/w obstructive
   picture. Lactate 4.  Gap acidosis 19. WBC 20. Cr 2.4 with reduced urine
   output. Received 4 L IVFs, vanco/levo/flagyl.  NGL for ? coffee ground
   emesis showed no active bleeding.
   Imaging with ruq u/s and ct abd s/o intrahepatic biliary dilatation.
   Surgery and ercp c/s wth plan for ercp in am.
   PMH:  htn, hypothy, tia/cva, gerd
   Exam notable for 99.5  100's  97-142/50-127  rr 22-31 sat 95% NC 2-3L
   Elderly F, alert, NAD, dry MM, rales b/l, sym am, RR, tender abd, soft
   + BS, no edema
   Labs notable for 12.5 wbc (20), hct 33 (41),  plt 119 , cr 1.9
   (2.4)/bun 40 , INR 1.6, lfts with  obstructive picture, lactate 2.4
   (4.0)
   CXR-- sml lung volumes, b/l sm effusions/ mild edema, loss of cpa and
   difficult to assess hemidiaphragms, no focal inf
   84 yo F with sepsis from cholangitis
   Primary issues include:
     * Sepsis
     * cholangitis
     * ARF
trending down
     * coagulopathy
     * thrombocytopenia
     * anemia
     * leukocytosis--improving
     * G met acidosis
     * Elevated lactate--improving
   Sepsis parameters improving with resolved hypotension and tachycardia
   and increasing urine output after fluids. Lactate, cr, and leukocytosis
   all trending down.  Agree with plan to continue aggressive hydration
   guided by urine output and resp status.  Currently tolerating fluids
   well from resp standpoint.  Continue antibx coverage for GI tract with
   cipro and  flagy. F/u cx results.  NPO for ercp this am. Oliguric ARF
   likely prerenal/sepsis with cr now trending down with hydration.  Will
   renally dose all meds. Continue to trend cr and follow u/o. In terms of
   ? UGIB
NGL neg for active bleeding. HCt drop appears dilutional after
   hydration. Would continue PPI IV while NPO, follow h/h, heme check
   stool and keep t and cross active.
   DNR/DNI, peripheral access adequate at this time.
   Remainder as per resident note
   Critically ill
will remain in ICU post ercp.
   Time spent 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2116-6-24**] 01:56 PM ------

2116-06-25 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ERCP - At [**2116-6-24**] 03:03 PM
 INVASIVE VENTILATION - START [**2116-6-24**] 03:46 PM
   - s/p ERCP with stent placement, needs another ercp in 6 weeks for
   sphincterotomy and stent removal
   - returned intubated over concern for "debris" in airway
   - kept on vent overnight: switched from PSV to VC as she was
   tachypneic; switched back to PSV in the am
   - Extubated prior to rounds with blood mucous on ET tube and suctioning
   requirements
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Flagyl - [**2116-6-24**] 07:45 AM Day 3
   Zosyn - [**2116-6-25**] 02:18 AM Day 2
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-6-24**] 07:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-25**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 84 (80 - 117) bpm
   BP: 125/57(75) {93/49(58) - 174/82(105)} mmHg
   RR: 20 (14 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,208 mL
                                                                  1,594 mL
   PO:
             TF:
   IVF:
                                                                  7,208 mL
                                                                  1,594 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    415 mL
   Urine:
                                                                  1,320 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,763 mL
                                                                  1,179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (350 - 400) mL
   Vt (Spontaneous): 360 (274 - 453) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 64
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/35/90.[**Numeric Identifier 299**]/17/-7
   Ve: 6 L/min
   PaO2 / FiO2: 257
   Physical Examination
   GENERAL - uncomfortable appearing lady in NAD
   HEENT - NC/AT, Limited cooperation with CN exam.  Mucous membranes
   dry.  Shovel mask in place
   NECK - supple, no thyromegaly, no JVD, no carotid bruits
   LUNGS - Bibasilar crackles/bowel sounds, no r/rh/wh, good air movement,
   resp unlabored but rapid
   HEART - PMI non-displaced, S1 & S2 regular with occasional irregularity
   ABDOMEN - Bowel sounds present, Diffusely tender but soft and
   non-distended, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no edema, 1+ DP pulses
   SKIN - no rashes or lesions
   LYMPH - no cervical, axillary, or inguinal LAD
   NEURO - Awake, Oriented to self. CN exam limited by her cooperation.
   PERRL. Muscle strength 4-/5 throughout, sensation grossly intact
   throughout, gait deferred as patient is wheelchair bound
   Labs / Radiology
   82 K/uL
   10.2 g/dL
   64 mg/dL
   1.4 mg/dL
   17 mEq/L
   4.1 mEq/L
   32 mg/dL
   114 mEq/L
   139 mEq/L
   29
   11.7 K/uL
        [image002.jpg]
                             [**2116-6-24**]  03:36 AM
                             [**2116-6-24**]  04:32 PM
                             [**2116-6-24**]  06:34 PM
                             [**2116-6-24**]  10:29 PM
                             [**2116-6-25**]  03:41 AM
                             [**2116-6-25**]  05:34 AM
                             [**2116-6-25**]  06:24 AM
   WBC
   12.5
   14.5
   11.7
   Hct
   33.4
   33.5
   31.9
   29
   Plt
   119
   112
   82
   Cr
   1.9
   1.6
   1.5
   0.5
   1.4
   TCO2
   18
   18
   Glucose
   67
   57
   71
   35
   66
   64
   Other labs: PT / PTT / INR:16.7/33.4/1.5, ALT / AST:56/28, Alk Phos / T
   Bili:38/0.5, Amylase / Lipase:21/13, Differential-Neuts:85.0 %,
   Band:9.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L,
   Albumin:1.2 g/dL, LDH:66 IU/L, Ca++:6.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Imaging: CXR: ET Tube in place, tip terminates between clavicles.
   ERCP Report: An erythematous patch without any evidence of active
   bleeding was seen in the proximal esophagus.
   A medium size hiatal hernia was seen.
   Three stones ranging in size from 6mm to 10mm that were causing partial
   obstruction were seen at the lower third of the common bile duct. There
   was post-obstructive dilation.
   A detailed cholangiogram was not obtained due to history of cholangitis
   Successful placement of a 10FR by 7 cm Cotton [**Doctor Last Name 6355**] biliary stent.
   Some stone fragments/sludge and black bile mixed with pus was seen
   draining from the CBD stent.
   Microbiology: [**6-24**] 2 bottles + for GNR
   Assessment and Plan
   An 84 year old lady admitted with cholangitis now s/p ERCP and
   intubation with positive blood cultures (Psuedomonas by verbal
   report).  She was successfully extubated but appears to be volume
   overloaded after aggressive resuscitation.
   #. Pseudomonal Bacteremia:  Per verbal report from microbiology, the
   patient
s GNR bacteremia (2 bottles on [**6-23**]) is pseduomonas,
   sensitivites pending.  She continues to have an elevated white count
   but is afebrile and otherwise hemodynamically stable.
   - Continue Cipro/Zosyn x2 week course.  Narrow (or broaden) based on
   returning microbiology.
   - Daily blood cultures for surveillance
   #. s/p ERCP: The patient had a successful ERCP with stent placement
   draining black bile and pus draining.  Repeat ERCP in 6 weeks
   - F/U ERCP Recs re: diet
   - Continue Abx as above
   - pain control with Morphine IV
   #. Thrombocytopenia:  The patient
s AM labs contained numerous
   abnormalities, significant enough to suggest they are not accurate.
   However, her thrombocytopenia is significantly concerning for DIC given
   sepsis.
   - Repeat CBC with fibrinogen & coags
   - Transfuse Cryoprecipitate for fibrinogen <100
   #. Oliguric renal failure: Cr improving and current UOP is ~50/hr.
   Patient is in fact now fluid overloaded.  We will give her throughout
   the day to mobilize fluid and autodiurese before administering lasix,
   unless there is an acute change in fluid status.
   #. Dementia: Patient reportedly at baseline but will confirm with
   family in AM.  Depression component, holding Celexa & Clonazepam while
   NPO.
   .
   #. HTN: Patient currently normotensive, holding home anti-hypertensives
   (Labetalol, Captopril, Amlodipine) in the setting of recent sepsis.
   .
   #. Gout: Continuing Allopurinol, renally dosed at 100mg PO every other
   day.
   .
   #. Spinal Stenosis: Continue Lidoderm patch, hold Vicodin.  Consider
   Morphine IV when hemodynamically stable.
   .
   #. Hyperlipidemia: Holding Statin while NPO
   .
   #. Hypothyroidism: Continue Levoxyl as 50mcg IV daily
   .
   #. CAD: Holding ASA, Statin
   .
   #. FEN - NPO, No IVF, replete lytes
   #. Access - PIV x2
   #. PPx: Pneumoboots (No anticoagulation)
   #. Code
 DNR, NOT DNI per family/patient
   #. Dispo
 Possible callout tomorrow
   Contact: [**Name (NI) 2052**] [**Name (NI) 6322**] (dgt and health care proxy)[**Telephone/Fax (1) 6323**], cell
   [**Telephone/Fax (1) 6324**]
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2116-6-24**] 03:31 AM
   20 Gauge - [**2116-6-24**] 09:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR Only
   Disposition:ICU

2116-06-26 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2116-6-25**] 08:30 AM
   - Extubated in AM
   - Advanced diet per ERCP recs, continue abx (Zosyn, cipro)
   - Blood cultures growing Pseudomonas + other GNR, await sensis
   - Autodiuresing 75-80cc/hr
   - Code status changed from DNR/DNI to DNR only (can intubate for
   reversible cause)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2116-6-24**] 07:45 AM
   Ciprofloxacin - [**2116-6-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-26**] 02:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-6-25**] 08:00 AM
   Morphine Sulfate - [**2116-6-25**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 90 (82 - 116) bpm
   BP: 149/75(94) {122/53(72) - 167/81(104)} mmHg
   RR: 17 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,472 mL
                                                                    172 mL
   PO:
                                                                     75 mL
             TF:
   IVF:
                                                                  2,397 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                  1,200 mL
   Urine:
                                                                  1,745 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    727 mL
                                                                 -1,028 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   GENERAL - uncomfortable appearing lady in NAD
   HEENT - NC/AT, Limited cooperation with CN exam.  Mucous membranes
   dry.  Shovel mask in place
   NECK - supple, no thyromegaly, no JVD, no carotid bruits
   LUNGS - Bibasilar crackles/bowel sounds, no r/rh/wh, good air movement,
   resp unlabored but rapid
   HEART - PMI non-displaced, S1 & S2 regular with occasional irregularity
   ABDOMEN - Bowel sounds present, Diffusely tender but soft and
   non-distended, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no edema, 1+ DP pulses
   SKIN - no rashes or lesions
   LYMPH - no cervical, axillary, or inguinal LAD
   NEURO - Awake, Oriented to self. CN exam limited by her cooperation.
   PERRL. Muscle strength 4-/5 throughout, sensation grossly intact
   throughout, gait deferred as patient is wheelchair bound
   Labs / Radiology
   86 K/uL
   10.2 g/dL
   95 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.5 mEq/L
   25 mg/dL
   108 mEq/L
   140 mEq/L
   31.0 %
   14.9 K/uL
        [image002.jpg]
                             [**2116-6-24**]  03:36 AM
                             [**2116-6-24**]  04:32 PM
                             [**2116-6-24**]  06:34 PM
                             [**2116-6-24**]  10:29 PM
                             [**2116-6-25**]  03:41 AM
                             [**2116-6-25**]  05:34 AM
                             [**2116-6-25**]  06:24 AM
                             [**2116-6-25**]  12:00 PM
                             [**2116-6-26**]  03:25 AM
   WBC
   12.5
   14.5
   11.7
   16.7
   14.9
   Hct
   33.4
   33.5
   31.9
   29
   35.8
   31.0
   Plt
   119
   112
   82
   118
   86
   Cr
   1.9
   1.6
   1.5
   0.5
   1.4
   1.2
   TCO2
   18
   18
   Glucose
   67
   57
   71
   35
   66
   64
   95
   Other labs: PT / PTT / INR:14.0/27.8/1.2, ALT / AST:56/28, Alk Phos / T
   Bili:38/0.5, Amylase / Lipase:21/13, Differential-Neuts:85.0 %,
   Band:9.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:710 mg/dL,
   Lactic Acid:2.4 mmol/L, Albumin:1.2 g/dL, LDH:66 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Microbiology: [**6-23**] BCx: PSEUDOMONAS AERUGINOSA.
   GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Assessment and Plan
   An 84 year old lady admitted with cholangitis now s/p ERCP and
   intubation with positive blood cultures (Psuedomonas by verbal
   report).  She was successfully extubated but appears to be volume
   overloaded after aggressive resuscitation.
   #. Pseudomonal Bacteremia:  Per verbal report from microbiology, the
   patient
s GNR bacteremia (2 bottles on [**6-23**]) is pseduomonas,
   sensitivites pending.  She continues to have an elevated white count
   but is afebrile and otherwise hemodynamically stable.
   - Continue Cipro/Zosyn x2 week course.  Narrow (or broaden) based on
   returning microbiology.
   - Daily blood cultures for surveillance
   #. s/p ERCP: The patient had a successful ERCP with stent placement
   draining black bile and pus draining.  Repeat ERCP in 6 weeks
   - F/U ERCP Recs re: diet
   - Continue Abx as above
   - pain control with Morphine IV
   #. Thrombocytopenia:  The patient
s AM labs contained numerous
   abnormalities, significant enough to suggest they are not accurate.
   However, her thrombocytopenia is significantly concerning for DIC given
   sepsis.
   - Repeat CBC with fibrinogen & coags
   - Transfuse Cryoprecipitate for fibrinogen <100
   #. Oliguric renal failure: Cr improving and current UOP is ~50/hr.
   Patient is in fact now fluid overloaded.  We will give her throughout
   the day to mobilize fluid and autodiurese before administering lasix,
   unless there is an acute change in fluid status.
   #. Dementia: Patient reportedly at baseline but will confirm with
   family in AM.  Depression component, holding Celexa & Clonazepam while
   NPO.
   .
   #. HTN: Patient currently normotensive, holding home anti-hypertensives
   (Labetalol, Captopril, Amlodipine) in the setting of recent sepsis.
   .
   #. Gout: Continuing Allopurinol, renally dosed at 100mg PO every other
   day.
   .
   #. Spinal Stenosis: Continue Lidoderm patch, hold Vicodin.  Consider
   Morphine IV when hemodynamically stable.
   .
   #. Hyperlipidemia: Holding Statin while NPO
   .
   #. Hypothyroidism: Continue Levoxyl as 50mcg IV daily
   .
   #. CAD: Holding ASA, Statin
   .
   #. FEN - NPO, No IVF, replete lytes
   #. Access - PIV x2
   #. PPx: Pneumoboots (No anticoagulation)
   #. Code
 DNR, NOT DNI per family/patient
   #. Dispo
 Possible callout tomorrow
   Contact: [**Name (NI) 2052**] [**Name (NI) 6322**] (dgt and health care proxy)[**Telephone/Fax (1) 6323**], cell
   [**Telephone/Fax (1) 6324**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-24**] 03:31 AM
   20 Gauge - [**2116-6-24**] 09:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor

2116-06-27 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Acinetobacter in blood (along with Pseudomonas & GPCs)
   - unexplained Hct drop, Hemolysis work up unrevealing, anemia studies,
   guaiac pending
   - Picc ordered
   - UOP ~ 1.5 L, off shovel mask, no lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2116-6-24**] 07:45 AM
   Ciprofloxacin - [**2116-6-26**] 08:22 AM
   Vancomycin - [**2116-6-26**] 11:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-27**] 02:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-6-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-27**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 73 (68 - 95) bpm
   BP: 145/60(83) {114/49(68) - 174/81(103)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,560 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                  1,560 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    270 mL
   Urine:
                                                                  3,040 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,480 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.40/32/121/16/-3
   Physical Examination
   GENERAL - Comfortable appearing lady in NAD
   HEENT - NC/AT, Limited cooperation with CN exam.  Mucous membranes
   moist.  Shovel mask in place
   NECK - supple, no thyromegaly, no JVD, no carotid bruits
   LUNGS - Bibasilar crackles/bowel sounds, no r/rh/wh, good air movement,
   resp unlabored but rapid
   HEART - PMI non-displaced, S1 & S2 regular with occasional irregularity
   ABDOMEN - Bowel sounds present, Diffusely tender but soft and
   non-distended, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no edema, 1+ DP pulses
   SKIN - no rashes or lesions
   LYMPH - no cervical, axillary, or inguinal LAD
   NEURO - Awake, Oriented to self. CN exam limited by her cooperation.
   PERRL. Muscle strength 4-/5 throughout, sensation grossly intact
   throughout
   Labs / Radiology
   54 K/uL
   10.4 g/dL
   135 mg/dL
   1.2 mg/dL
   16 mEq/L
   3.3 mEq/L
   21 mg/dL
   103 mEq/L
   138 mEq/L
   31.9 %
   13.5 K/uL
                             [**2116-6-24**]  06:34 PM
                             [**2116-6-24**]  10:29 PM
                             [**2116-6-25**]  03:41 AM
                             [**2116-6-25**]  05:34 AM
                             [**2116-6-25**]  06:24 AM
                             [**2116-6-25**]  12:00 PM
                             [**2116-6-26**]  03:25 AM
                             [**2116-6-26**]  06:14 PM
                             [**2116-6-26**]  08:35 PM
                             [**2116-6-27**]  04:27 AM
   WBC
   11.7
   16.7
   14.9
   13.2
   13.5
   Hct
   31.9
   29
   35.8
   31.0
   27.1
   31.9
   Plt
   82
   118
   86
   77
   54
   Cr
   1.5
   0.5
   1.4
   1.2
   1.2
   TCO2
   18
   18
   21
   Glucose
   71
   35
   66
   64
   95
   135
   Other labs: PT / PTT / INR:13.5/27.0/1.2, ALT / AST:55/19, Alk Phos / T
   Bili:68/0.8, Amylase / Lipase:21/13, Differential-Neuts:85.0 %,
   Band:9.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:710 mg/dL,
   Lactic Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:186 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: Vit-B12:1730 Folate:15.0
   Iron: 30
   calTIBC: 151
   Hapto: 268
   Ferritn: 221
   TRF: 116
   Imaging: None
   Microbiology: Sensitivites Pending
   Assessment and Plan
   An 84 year old lady cholangitis and subsequent polymicrobial bacteremia
   s/p ERCP and intubation.  She is doing well today but has a continued
   oxygen requirement.
   #. Polymicrobial Bacteremia: The patient
s blood cultures are positive
   for Pseudomonas, Acinetobacter, GPC and GNRs.  She remains afebrile
   with a constant elevated WBC count. She is currently on Cipro/Zosyn and
   Vancomycin added this morning should provide coverage for all of her
   organisms.
   - Continue Cipro/Zosyn for total two week dose
   - Vanc 1g first dose today, Q48 ongoing for 2 weeks
   - f/u cultures/speciation/sensitivities and adjust ABX as needed.
   -PICC placement this AM
   #. Respiratory Distress: The patient is not stable on room air.  Her
   recent CXR and exam suggest that she has fluid overload. She has been
   autodiuresing well above goal of 1L.  Lasix not indicated at this time.
   - Monitor I/Os
   -goal UOP is -1L
   -CXR today
   .
   #. s/p ERCP: The patient had a successful ERCP with stent placement
   draining black bile and pus draining.
   -Repeat ERCP in 6 weeks.
   -Advance diet as tolerated.
   #. Thrombocytopenia:  The patient
s platelets have again dropped from
   118>86 and now to 54.  No heparin products. Fibrinogen, INR wnl.  The
   most likely cause is medication related and due to PPI or Vanco.  Given
   that the patient is not bleeding, requires Vanco for GPCs, will monitor
   and consider d/c meds as indicated.
   - follow platelets and transfuse for <10 or signs of bleeding.
   #. Acute renal failure: Cr improving and current UOP is >100/hr.
   #. Dementia: Overreported, patient is at baseline and doing well.
   #. HTN: Patient currently hypertensive.  Yesterday started Labetalol
   200mg PO BID, still hypertensive will restart Amlodipine today and
   continue to hold Captopril..
   #. Gout: Continuing Allopurinol, renally dosed at 100mg PO daily
   #. Spinal Stenosis: Continue Lidoderm patch, hold Vicodin.
   #. Hyperlipidemia: continue statin.
   .
   #. Hypothyroidism: Continue Levoxyl as 100mcg PO daily
   .
   #. CAD: Holding ASA while thrombocytopenic
   .
   #. FEN
 ADAT,  No IVF, replete lytes
   #. Access - PIV x2
   #. PPx: Pneumoboots (No anticoagulation)
   #. Code
 DNR, NOT DNI per family/patient
   #. Dispo
 to Floor.
   Contact: [**Name (NI) 2052**] [**Name (NI) 6322**] (dgt and health care proxy)[**Telephone/Fax (1) 6323**], cell
   [**Telephone/Fax (1) 6324**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-24**] 03:31 AM
   20 Gauge - [**2116-6-24**] 09:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 6451**] has remained extubated without difficulty. She has had
   minimal PO intake and denies dyspnea.
   Exam notable for elderly WF with edema Tm of 98.9 BP 140/50 HRof 88 RR
   of 18 with sats of 97% on 2 lpm . There is dullness to percussion at
   bases but no evidence for wheeze.
   Labs notable for WBC 13.5 K, HCT  31.9, K+ 3.3, Cr 1.2 , alb of 2.6,
   plts of 54K  CXR with large bilateral effusions and small lung
   volumes .
   Agree with plan to continue broad Antibiotics pending sensitivities of
   GNR/ GPC's in blood. She will need gentle diuresis over next few  days
   to help with anasarca. suspect thrombocytopenia is drug related ( ? PPI
   vs Vanco).  We will follow off these medications.after PICC placement
   she will transition to medical floor for further care. Will need to
   speak wih guardian/ HCP regarding overall goals of care.
   Remainder of plan as outlined above.
   Patient is slowly improving.
   Total time: 25 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2116-6-27**] 02:31 PM ------